US04055665
2-(Phenylthio)benzamide
Following the procedure described in Example 1, 2-(phenylthio)benzoyl chloride is prepared from 0.065 mole of 2-(phenylthio)benzoic acid and excess thionyl chloride. A solution of the oily acid chloride in 50 ml. of acetone is added dropwise with stirring to 100 ml. of concentrated ammonium hydroxide. The mixture is heated to refluxing for 3 hours. On cooling, the product separates and is collected.

reactant | 2-(phenylthio)benzoyl chloride | C1(=CC=CC=C1)SC1=C(C(=O)Cl)C=CC=C1 | C13H9ClOS
reactant | 2-(phenylthio)benzoic acid | 0.065 mole | C1(=CC=CC=C1)SC1=C(C(=O)O)C=CC=C1 | C13H10O2S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-(Phenylthio)benzamide | C1(=CC=CC=C1)SC1=C(C(=O)N)C=CC=C1 | C13H11NOS
